US05455356
In the same apparatus and procedures as Example 1 was reacted 83 ml of 4-chlorophenylmagnesiumbromide solution (1.0 M in diethylether) with 1-chloro-1-chloromethyl-1-silacyclopentane prepared from the above procedure i) for 5 hrs. In the same method as Example 1 was treated the reaction product to give 5.20 g of 1-chloromethyl-1-(4-chlorophenyl)-1-silacyclopentane (b.p. 108°-110° C./0.5 mmHg).

reactant | 4-chlorophenylmagnesiumbromide | 1.0 M, 83 ml | ClC1=CC=C(C=C1)[Mg]Br
reactant | 1-chloro-1-chloromethyl-1-silacyclopentane | Cl[Si]1(CCCC1)CCl | C5H10Cl2Si
product | 1-chloromethyl-1-(4-chlorophenyl)-1-silacyclopentane | 5.20 g | ClC[Si]1(CCCC1)C1=CC=C(C=C1)Cl | C11H14Cl2Si
